US07074819B2
Step 1) Synthesis of 6-bromo-1-(t-butyldimethylsilyloxy)hexane
6-Bromo-1-hexanol (20 g, 110.42 mmol) was dissolved in dry tetrahydrofuran (700 ml) and cooled to 0° C. under argon atmosphere, to which were added imidazole (15 g, 220.84 mmol) and t-butyldimethylsilyl chloride (33 g, 220.84 mmol) and the resulting solution was stirred overnight. After the reaction was completed, the mixture was poured in ice-water and extracted with ethyl acetate. The organic solvent was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. This crude product was purified by column chromatography on silica gel, eluting with ethyl acetate:n-hexane=1:40. After removal of the solvent, 30 g of the title compound was obtained as colorless oil. (yield: 92.4%)

reactant | 6-Bromo-1-hexanol | 110.42 mmol, 20 g | BrCCCCCCO | C6H13BrO
reactant | imidazole | 220.84 mmol, 15 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 220.84 mmol, 33 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 6-bromo-1-(t-butyldimethylsilyloxy)hexane | 30 g, yield: 92.4% | BrCCCCCCO[Si](C)(C)C(C)(C)C | C12H27BrOSi
